US04503050
A mixture of 1.5 g (0.01 mole) of 4-amino-2,6-dimethoxypyrimidine and 3.0 g (0.015 mole) of 50% aqueous chloroacetaldehyde in 20 ml of water was heated at 80° C. for one hour, and was then cooled with an ice bath with concomitant neutralization with sodium bicarbonate. The solid which formed was separated by filtration and recrystallized from cyclohexane with treatment with decolorizing charcoal. White crystals of 5,7-dimethoxyimidazo[1,2-c]pyrimidine, m.p. 120°-121° C., were obtained. Analysis: Calculated for C8H9N3O2 : %C,53.6; %H,5.1; %N,23.5; Found: %C,53.5; %H,5.0; %N,23.6. The structural assignment was confirmed by infrared and nuclear magnetic resonance spectral analyses.

reactant | 4-amino-2,6-dimethoxypyrimidine | 0.01 mole, 1.5 g | NC1=NC(=NC(=C1)OC)OC | C6H9N3O2
reactant | chloroacetaldehyde | 0.015 mole, 3.0 g | ClCC=O | C2H3ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 20 ml | O | H2O
product | 5,7-dimethoxyimidazo[1,2-c]pyrimidine | COC1=NC(=CC=2N1C=CN2)OC | C8H9N3O2
